* C:\ASD\Dioder\Exercise\Simuleringer\DUT_SETUP.asc
V1 N001 0 SINE({V_offset} {V_amp} {Freq})
D1 Ch1 Ch2 {DUT}
R1 Ch2 0 10 pwr=2
Rg Ch1 N001 50
Rs_Ch1 Ch1 0 {Rs}
Rs_Ch2 Ch2 0 {Rs}
.model D D
.lib C:\Users\adamh\Documents\LTspiceXVII\lib\cmp\standard.dio
* D.U.T
* Current\nMeasurement
* 10x probe
.param Rs = 10Meg
* 10x probe
.step param DUT list 1 2
.model 1 ako:1N4148
.model 2 ako:1N5818
.tran {4/Freq}
* Spice settings
.param V_offset = 2.5V
.param V_amp = 2.5V
.param freq = 50
.param Rg = 50
.backanno
.end
