* C:\ASD\Dioder\Exercise\DiodeCircuit.asc
D1 N002 0 {DiodeType}
R_DC DC_IN N002 {R_DC}
R§ScopeCh2 Ch1 0 {R_Scope}
V1 DC_IN 0 {VCC}
C1 Ch1 0 15p
R1 N002 Ch1 1Meg
C2 N002 Ch1 14p
D2 Ch2 0 {DiodeType}
R_DC1 N001 Ch2 {R_DC}
R§ScopeCh1 Ch2 0 {R_Scope}
V2 N001 0 {VCC}
C3 Ch2 0 15p
.model D D
.lib C:\Users\adamh\Documents\LTspiceXVII\lib\cmp\standard.dio
.step param R_DC list 5 10 20 40 100 1k 10k 100k 1Meg
.param R_Scope= 10Meg
* .step param DiodeType 1 3 1
.model 1 ako:1N914
.model 2 ako:1N4001
.model 3 ako:PT-121-B
* Scope
.param DiodeType 1
.op
.param VCC 4
* Scope
.backanno
.end
